US05756507
Step 7.1F 4-(4-benzyloxyphenyl)-N-{2-[2-(3,5-dimethylphenyl)-5-hydroxy-1H-indol-3-yl]ethyl]butyramide
To a stirred solution of 4-benzyloxyphenylbutyric acid (159 mg in a mixture of 2 mL methylene chloride and 0.5 mL N,N-dimethylformamide) was added 1-hydroxybenzotriazole (110 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (113 mg) and the reagents allowed to mix for 30 minutes. At this time a solution of 3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-ol (144 mg in 4 mL N,N-dimethylformamide) was added and the reaction stirred at room temperature. After 6 hours, the mixture was concentrated in vacuo and purified by flash chromatography on silica gel (hexane:ethyl acetate, 4:5) to give the title compound (241 mg).

reactant | 4-benzyloxyphenylbutyric acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(=O)O)CC | C17H18O3
reactant | 1-hydroxybenzotriazole | 110 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 113 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-ol | 4 mL, 144 mg | NCCC1=C(NC2=CC=C(C=C12)O)C1=CC(=CC(=C1)C)C | C18H20N2O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 4-(4-benzyloxyphenyl)-N-{2-[2-(3,5-dimethylphenyl)-5-hydroxy-1H-indol-3-yl]ethyl]butyramide | 241 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCC(=O)NCCC1=C(NC2=CC=C(C=C12)O)C1=CC(=CC(=C1)C)C | C35H36N2O3
